US04788206
As in Example 115, (E,E)-5-(4-methoxyphenyl)-2,4-nonadienoic acid (3.12 g) and 4-nitrophenol (2 g) in 20 mL of dichloromethane was treated with 1,3-dicyclohexylcarbodiimide (2.49 g) and the mixture was stirred at room temperature for 3 days. After the normal work up, crystallization of the crude product from 2-propanol yielded 3.55 g of (E,E)-5-(4-methoxyphenyl)-2,4nonadienoic acid 4-nitrophenyl ester, mp 78°-80° C., resolidified and remelted at 115° C.

reactant | (E,E)-5-(4-methoxyphenyl)-2,4-nonadienoic acid | 3.12 g | COC1=CC=C(C=C1)/C(=C/C=C/C(=O)O)/CCCC | C16H20O3
reactant | 4-nitrophenol | 2 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 2.49 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (E,E)-5-(4-methoxyphenyl)-2,4nonadienoic acid 4-nitrophenyl ester | 3.55 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(/CCCC)\C1=CC=C(C=C1)OC)=O | C22H23NO5
